US04038065
To a stirred mixture of 1-(n-hexyl)-3-cyano-4,6-dimethyl-pyrid-2-one (222.3 g., 0.957 mole) and water (100 ml.) is added dropwise concentrated sulfuric acid (300 g.). When the addition is completed the stirred solution is heated on a steam bath for 24 hours. The solution is poured onto ice and basified with a sodium hydroxide solution and filtered. The alkaline filtrate is acidified with acetic acid and extracted with 400 ml. of toluene. The toluene layer is then extracted with 2 × 350 ml. of 5% NaOH. The aqueous layer is acidified with hydrochloric acid and cooled in an ice bath. The semi-solid precipitate is recrystallized from methanol/water to give 1-(n-hexyl)-3-carboxy-4,6-dimethylpyrid-2-one, 24 g. (100% yield), mp. 79-82.5.

reactant | 1-(n-hexyl)-3-cyano-4,6-dimethyl-pyrid-2-one | 0.957 mole, 222.3 g | C(CCCCC)N1C(C(=C(C=C1C)C)C#N)=O | C14H20N2O
reactant | sulfuric acid | 300 g | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | 1-(n-hexyl)-3-carboxy-4,6-dimethylpyrid-2-one | 100% yield | C(CCCCC)N1C(C(=C(C=C1C)C)C(=O)O)=O | C14H21NO3
